US05344843
As in example 10, a solution of 4-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester (0.8 g) in hot methanol (80 mL) was treated with 2N sodium hydroxide (1.75 mL) was stirred at room temperature for 75 minutes. The methanol was removed in vacuo, then the mixture was acidified with 3N hydrochloric acid and extracted with dichloromethane-tetrahydrofuran (2:1). The dried (MgSO4) extracts were evaporated and the solid residue was triturated from hexane, and then crystallized from acetone-hexane to provide 0.7 g of 4-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid, mp 144°-145° C.

reactant | 4-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.8 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O | C29H38O6
reactant | sodium hydroxide | 2N, 1.75 mL | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 4-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid | 0.7 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CCCCOC1=CC=C(C=C1)C(C(=O)O)=O)=O | C27H34O6
